US04478967
A. 2-Nitrobenzyl hexadecanesulfonate (Compound 9)
To a stirred solution of 7.65 g (0.05 mol) of 2-nitrobenzyl alcohol in 75 ml of benzene containing 5.05 g (0.05 mol) of triethylamine was added 16.25 g (0.05 mol of hexadecanesulfonyl chloride. The mixture was stirred an additional four hours. The mixture was evaporated to dryness in vacuo and the solid taken up into a mixture of ether and water. The ether layer was separated and dried over MgSO4. Evaporation of the ether gave a solid which was crystallized from absolute ethanol (yield 14.3 g, m.p. 63°-65° C.).

reactant | 2-nitrobenzyl alcohol | 0.05 mol, 7.65 g | [N+](=O)([O-])C1=C(CO)C=CC=C1 | C7H7NO3
reactant | benzene | 0.05 mol, 75 ml, 5.05 g | C1=CC=CC=C1 | C6H6
reactant | hexadecanesulfonyl chloride | 0.05 mol | C(CCCCCCCCCCCCCCC)S(=O)(=O)Cl | C16H33ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Nitrobenzyl hexadecanesulfonate | C(CCCCCCCCCCCCCCC)S(=O)(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C23H39NO5S
